US06579872B1
N-{5-[4-(N-(3-dimethylaminopropyl)-N-methylamino)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide
N-(3-Dimethylaminopropyl)-N-methylamine (0.325 g) was added to a stirred mixture of N-[5-(4-fluorobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide (0.38 g), potassium carbonate (0.39 g) and DMSO (5 ml). The mixture was stirred and heated to 130° C. for 10 days. The mixture was allowed to cool to ambient temperature and partitioned between ethyl acetate and water. The organic phase was washed with water, dried (MgSO4) and evaporated to give an oil which was purified by column chromatography on silica gel using increasingly polar mixtures of methylene chloride and methanol as eluent. The material so obtained was triturated under diethyl ether and the resultant solid was dried under vacuum at 60° C. There was thus obtained the title compound (0.16 g), m.p. 164-165° C.; NMR Spectrum: (DMSOd6) 1.6 (m, 2H), 2.16 (s, 3H), 2.2 (s, 6H), 2.3 (t, 2H), 2.94 (s, 3H), 3.4 (t, 2H), 3.83 (s, 6H), 6.72 (d, 2H), 7.06 (d, 1H), 7.18 (d, 1H), 7.55 (m, 2H), 7.63 (m, 1H), 7.79 (d, 2H), 7.84 (d, 2H), 9.71 (br s, 1H), 9.8 (br s, 1H); Mass Spectrum: M+H+ 505; Elemental Analysis: Found C, 65.9; H, 7.0; N, 10.4; C29H36N4O4 1.3H2O requires C, 66.0; H, 7.4; N, 10.6%.

reactant | N-(3-Dimethylaminopropyl)-N-methylamine | 0.325 g | CN(CCCNC)C | C6H16N2
reactant | N-[5-(4-fluorobenzamido)-2-methylphenyl]-3,4-dimethoxybenzamide | 0.38 g | FC1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=C1 | C23H21FN2O4
reactant | potassium carbonate | 0.39 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | N-{5-[4-(N-(3-dimethylaminopropyl)-N-methylamino)benzamido]-2-methylphenyl}-3,4-dimethoxybenzamide | 0.16 g | CN(CCCN(C)C1=CC=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=C(C=C2)OC)OC)=O)C)C=C1)C | C29H36N4O4
